MM13 (VOUT1 net38 VSS VSS) nmos4
MM9 (net38 net35 VSS VSS) nmos4
MM8 (net35 net35 VSS VSS) nmos4
MM12 (VOUT1 net1004 VDD VDD) pmos4
MM11 (net33 net1004 VDD VDD) pmos4
MM10 (net38 net12 net33 net39) pmos4
MM7 (net35 VSS net33 net39) pmos4
CC2 (VOUT1 net38) capacitor
MM4 (net1004 VB1 VSS VSS) nmos4
MM2 (VB1 VB1 VSS VSS) nmos4
MM10 (neta net1007 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM1 (VB1 neta VDD VDD) pmos4
MM0 (neta neta VDD VDD) pmos4
RR0 (net1007 VSS) resistor
MM2 (VB2 net12 net1007 VSS) nmos4
MM0 (net12 net1007 VSS VSS) nmos4
MM3 (VB2 VB2 VDD VDD) pmos4
MM1 (net12 VB2 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor